data/polar.json
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[cH:1]1[cH:10][cH:2][cH:18][c:22]2[cH:25][cH:14][cH:24][c:23]-2[cH:17]1.[cH:3]1[cH:9][cH:4][c:5]2[c:11]([o+:6][c:8](-[c:20]3[cH:15][cH:12][cH:21][cH:13][cH:16]3)[cH:7][cH:19]2)[cH:26]1>>[cH:1]1[cH:10][cH:2][cH:18][c:22]2[c:23]([cH+:17]1)[CH:24]([CH:19]1[c:5]3[cH:4][cH:9][cH:3][cH:26][c:11]3[O:6][C:8]([c:20]3[cH:15][cH:12][cH:21][cH:13][cH:16]3)=[CH:7]1)[CH:14]=[CH:25]2", "epd": [["Pi-/Pi+", [23, 17], [22, 23]], ["Pi-/Pi+", [25, 22], [14, 25]], ["Pi-/Sigma+", [24, 14], [24, 19]], ["Pi-/Pi+", [19, 7], [7, 8]], ["Pi-/LP+", [8, 6], [6]]]}
{"reaction_name": "Carbene generation from trihalomethyl anions", "rsmi": "[Br:1][C-:4]([Cl:2])[Cl:3]>>[Br-:1].[Cl:2][C:4][Cl:3]", "epd": [["Sigma-/LP+", [1, 4], [1]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[CH2:1]=[N:9][N:2]1[CH2:10][CH2:4][CH2:3][CH2:11]1.[cH:5]1[c:12]([CH+:24][c:13]2[cH:6][c:16]([F:20])[cH:23][c:17]([F:21])[cH:7]2)[cH:8][c:14]([F:18])[cH:22][c:15]1[F:19]>>[CH2:1]([N:9]=[N+:2]1[CH2:10][CH2:4][CH2:3][CH2:11]1)[CH:24]([c:12]1[cH:5][c:15]([F:19])[cH:22][c:14]([F:18])[cH:8]1)[c:13]1[cH:6][c:16]([F:20])[cH:23][c:17]([F:21])[cH:7]1", "epd": [["LP-/Pi+", [2], [9, 2]], ["Pi-/Sigma+", [1, 9], [1, 24]]]}
{"reaction_name": "Corey–Fuchs reaction", "rsmi": "[C:1](=[O:24])([CH2:25][Br:21])[H:27].[c:2]1([P:26]([c:3]2[cH:13][cH:7][cH:18][cH:8][cH:14]2)([c:4]2[cH:15][cH:9][cH:19][cH:10][cH:16]2)=[C:20]([Br:22])[Br:23])[cH:11][cH:5][cH:17][cH:6][cH:12]1>>[C:1](=[C:20]([Br:22])[Br:23])([CH2:25][Br:21])[H:27].[c:2]1([P:26]([c:3]2[cH:13][cH:7][cH:18][cH:8][cH:14]2)([c:4]2[cH:15][cH:9][cH:19][cH:10][cH:16]2)=[O:24])[cH:11][cH:5][cH:17][cH:6][cH:12]1", "epd": [["Pi-/Sigma+", [1, 24], [1, 20]], ["Pi-/Sigma+", [20, 26], [24, 26]], ["Sigma-/Pi+", [1, 24], [24, 26]], ["Sigma-/Pi+", [20, 26], [1, 20]]]}
{"reaction_name": "Mislow–Evans rearrangement", "rsmi": "[S:1](=[O:2])([CH2:3][CH:4]=[CH2:6])[CH3:5]>>[S:1]([O:2][CH2:3][CH:4]=[CH2:6])[CH3:5]", "epd": [["LP-/Sigma+", [2], [2, 3]], ["Sigma-/LP+", [1, 3], [1]], ["Pi-/LP+", [1, 2], [2]]]}
{"reaction_name": "Selectfluor fluorination", "rsmi": "[CH2:2]([N+:7]12[CH2:12][CH2:21][N+:11]([F:6])([CH2:22][CH2:13]1)[CH2:23][CH2:14]2)[Cl:24].[CH:1]1([C:4](=[O:16])[O:26][CH3:8])[CH2:9][CH2:19][CH2:17][N:25]1[C:18]1=[CH:10][CH2:3][CH2:20][CH2:15][CH2:5]1>>[CH2:2]([N+:7]12[CH2:12][CH2:21][N:11]([CH2:22][CH2:13]1)[CH2:23][CH2:14]2)[Cl:24].[CH:1]1([C:4](=[O:16])[O:26][CH3:8])[CH2:9][CH2:19][CH2:17][N+:25]1=[C:18]1[CH2:5][CH2:15][CH2:20][CH2:3][CH:10]1[F:6]", "epd": [["LP-/Pi+", [25], [18, 25]], ["Pi-/Sigma+", [10, 18], [10, 6]], ["Sigma-/LP+", [6, 11], [11]]]}
{"reaction_name": "Zimmerman–Traxler aldol addition", "rsmi": "[CH-:1]([CH3:3])[C:6](=[O:2])[CH3:8].[O:4]=[CH:7][CH3:5]>>[CH:1]([CH3:3])([C:6](=[O:2])[CH3:8])[CH:7]([O-:4])[CH3:5]", "epd": [["LP-/Sigma+", [1], [1, 7]], ["Pi-/LP+", [4, 7], [4]]]}
{"reaction_name": "Nucleophilic addition to terminal diazo nitrogen", "rsmi": "[N+:3]([C-:10]([C:4]([O:11][CH3:8])=[O:14])[C:5]([O:12][CH3:9])=[O:15])#[N:16].[cH:1]1[c:18]2[cH:17][cH:7][cH:2][cH:13][c:20]2[cH-:6][cH:19]1>>[CH:1]1=[CH:19][CH:6]([N:16]=[N:3][C-:10]([C:4]([O:11][CH3:8])=[O:14])[C:5]([O:12][CH3:9])=[O:15])[c:20]2[cH:13][cH:2][cH:7][cH:17][c:18]21", "epd": [["LP-/Sigma+", [6], [6, 16]], ["Pi-/LP+", [16, 3], [3]]]}
{"reaction_name": "Michael addition", "rsmi": "[C:1]1(=[CH2:8])[N:14]([CH3:2])[c:12]2[cH:4][cH:9][cH:10][cH:5][c:11]2[N:15]1[CH3:3].[S:6]([c:16]1[cH:25][cH:20][cH:18][cH:23][cH:28]1)([C:24]([S:7]([c:17]1[cH:26][cH:21][cH:19][cH:22][cH:27]1)(=[O:29])=[O:30])=[CH2:13])(=[O:31])=[O:32]>>[c:1]1([CH2:8][CH2:13][C-:24]([S:6]([c:16]2[cH:25][cH:20][cH:18][cH:23][cH:28]2)(=[O:31])=[O:32])[S:7]([c:17]2[cH:26][cH:21][cH:19][cH:22][cH:27]2)(=[O:29])=[O:30])[n+:14]([CH3:2])[c:12]2[cH:4][cH:9][cH:10][cH:5][c:11]2[n:15]1[CH3:3]", "epd": [["LP-/Pi+", [14], [1, 14]], ["Pi-/Sigma+", [8, 1], [8, 13]], ["Pi-/LP+", [13, 24], [24]]]}
{"reaction_name": "Nosylation activation", "rsmi": "[CH3:5][CH2:17][O:6][H:9].[c:1]1([N+:2](=[O:4])[O-:8])[cH:12][cH:10][c:14]([S:3]([Cl:7])(=[O:15])=[O:16])[cH:11][cH:13]1>>[Cl:7][H:9].[c:1]1([N+:2](=[O:4])[O-:8])[cH:12][cH:10][c:14]([S:3]([O:6][CH2:17][CH3:5])(=[O:15])=[O:16])[cH:11][cH:13]1", "epd": [["LP-/Sigma+", [6], [3, 6]], ["Pi-/LP+", [15, 3], [15]], ["LP-/Pi+", [15], [15, 3]], ["Sigma-/LP+", [3, 7], [7]], ["LP-/Sigma+", [7], [7, 9]], ["Sigma-/LP+", [6, 9], [6]]]}
{"reaction_name": "Lactone ring-opening polymerization", "rsmi": "[O-:2][CH3:4].[O:1]=[C:3]1[O:6][CH2:5][CH2:7]1>>[O:1]=[C:3]([O:2][CH3:4])[CH2:5][CH2:7][O-:6]", "epd": [["LP-/Sigma+", [2], [2, 3]], ["Pi-/LP+", [1, 3], [1]], ["LP-/Pi+", [1], [1, 3]], ["Sigma-/LP+", [3, 6], [6]], ["LP-/Sigma+", [6], [6, 7]], ["Sigma-/LP+", [3, 7], [3]], ["LP-/Sigma+", [3], [3, 5]], ["Sigma-/LP+", [5, 6], [6]]]}
